* ================================================================
* VETCO EURORACK LIBRARY — COMPILE / PARSE TEST
* File: vetco_eurorack_test.cir
* Compatible with: ngspice (batch mode)
*
* Purpose: Instantiate every model in vetco_eurorack.lib and run
*          a DC operating point (.op) to verify the library parses
*          and all instances converge.
*
* Run:  ngspice -b vetco_eurorack_test.cir
*       (ngspice.exe lives in C:\Program Files\KiCad\10.0\bin\)
* ================================================================

.TITLE Vetco Eurorack Library Compile Test

.LIB "vetco_eurorack.lib"

* ================================================================
* SUPPLY RAILS
* ================================================================
VVCC  VCC  0   DC  12V     $ Eurorack +12V
VVEE  VEE  0   DC -12V     $ Eurorack -12V
VVCC9 VCC9 0   DC   9V     $ LM386 single supply
VVCC5 VCC5 0   DC   5V     $ LMC648x low-voltage supply

* Test signal sources
VVIN_OP   VIN_OP   0  DC  0.5V    $ op-amp unity-gain input  (±12V parts)
VVIN_LV   VIN_LV   0  DC  0.1V    $ low-voltage op-amp input (LMC parts)
VVIN_AUD  VIN_AUD  0  DC  0.05V   $ audio amp input


* ================================================================
* SECTION 1 — BIPOLAR JUNCTION TRANSISTORS
*
* Simple fixed bias:
*   NPN — Rb (100k) from VCC to Base; Rc (4.7k) from VCC to Collector;
*          Emitter to GND.  Some parts will saturate; .op still converges.
*   PNP — Rb (100k) from GND to Base; Rc (4.7k) from GND to Collector;
*          Emitter to VCC.
* ================================================================

* --- VET123AP  (2N3904 — NPN 40V/200mA) ---
RB_Q1A  VCC  B_Q1  100k
RC_Q1   VCC  C_Q1  4.7k
Q1      C_Q1  B_Q1  0  VET123AP

* --- NTE159    (2N3906 — PNP 40V/200mA) ---
RB_Q2A  0    B_Q2  100k
RC_Q2   C_Q2  0   4.7k
Q2      C_Q2  B_Q2  VCC  NTE159

* --- NTE123A   (2N2222A — NPN 40V/800mA) ---
RB_Q3A  VCC  B_Q3  100k
RC_Q3   VCC  C_Q3  4.7k
Q3      C_Q3  B_Q3  0   NTE123A

* --- NTE159M   (2N2907A — PNP 60V/600mA) ---
RB_Q4A  0    B_Q4  100k
RC_Q4   C_Q4  0   4.7k
Q4      C_Q4  B_Q4  VCC  NTE159M

* --- NTE47     (MPSA18 — NPN low-noise 30V/50mA) ---
RB_Q5A  VCC  B_Q5  100k
RC_Q5   VCC  C_Q5  22k
Q5      C_Q5  B_Q5  0   NTE47

* --- NTE196    (TIP31C — NPN power 70V/7A) ---
RB_Q6A  VCC  B_Q6  10k
RC_Q6   VCC  C_Q6  100
Q6      C_Q6  B_Q6  0   NTE196

* --- NTE197    (TIP32C — PNP power 70V/7A) ---
RB_Q7A  0    B_Q7  10k
RC_Q7   C_Q7  0   100
Q7      C_Q7  B_Q7  VCC  NTE197

* --- NTE288    (MPSA93 — PNP HV 80V/500mA) ---
RB_Q8A  0    B_Q8  100k
RC_Q8   C_Q8  0   4.7k
Q8      C_Q8  B_Q8  VCC  NTE288


* ================================================================
* SECTION 1b — VUPN1670 ASSORTMENT KIT (BJTs)
*
* Same bias scheme as Section 1.
* NPN: Rb (100k) VCC→Base; Rc (4.7k) VCC→Collector; E→GND.
* PNP: Rb (100k) GND→Base; Rc (4.7k) GND→Collector; E→VCC.
* Power parts (S8050/S8550): lower Rb (10k) and Rc (100Ω).
* ================================================================

* --- 2N2222  (PN2222A — NPN switching 60V/800mA) ---
RB_Q9A  VCC  B_Q9  100k
RC_Q9   VCC  C_Q9  4.7k
Q9      C_Q9  B_Q9  0   2N2222

* --- 2N2907  (2N2907A — PNP switching 60V/600mA) ---
RB_Q10A 0    B_Q10  100k
RC_Q10  C_Q10  0   4.7k
Q10     C_Q10  B_Q10  VCC  2N2907

* --- 2N3904  (NPN general purpose 40V/200mA) ---
RB_Q11A VCC  B_Q11  100k
RC_Q11  VCC  C_Q11  4.7k
Q11     C_Q11  B_Q11  0   2N3904

* --- 2N3906  (PNP general purpose 40V/200mA) ---
RB_Q12A 0    B_Q12  100k
RC_Q12  C_Q12  0   4.7k
Q12     C_Q12  B_Q12  VCC  2N3906

* --- A1015   (2SA1015 — PNP low-noise 50V/150mA) ---
RB_Q13A 0    B_Q13  100k
RC_Q13  C_Q13  0   4.7k
Q13     C_Q13  B_Q13  VCC  A1015

* --- BC327   (PNP high-gain 50V/800mA) ---
RB_Q14A 0    B_Q14  100k
RC_Q14  C_Q14  0   4.7k
Q14     C_Q14  B_Q14  VCC  BC327

* --- BC337   (NPN high-gain 50V/800mA) ---
RB_Q15A VCC  B_Q15  100k
RC_Q15  VCC  C_Q15  4.7k
Q15     C_Q15  B_Q15  0   BC337

* --- C1815   (2SC1815 — NPN low-noise 50V/150mA) ---
RB_Q16A VCC  B_Q16  100k
RC_Q16  VCC  C_Q16  4.7k
Q16     C_Q16  B_Q16  0   C1815

* --- S8050   (NPN power switching 40V/1.5A) ---
RB_Q17A VCC  B_Q17  10k
RC_Q17  VCC  C_Q17  100
Q17     C_Q17  B_Q17  0   S8050

* --- S8550   (PNP power switching 40V/1.5A) ---
RB_Q18A 0    B_Q18  10k
RC_Q18  C_Q18  0   100
Q18     C_Q18  B_Q18  VCC  S8550


* ================================================================
* SECTION 2 — JUNCTION FIELD-EFFECT TRANSISTORS
*
* N-ch: Gate biased via 1MEG to GND; Source self-bias via Rs (1k)
*       to GND; Drain through Rd (10k) to VCC.
* P-ch: Gate biased via 1MEG to VCC; Source self-bias via Rs (1k)
*       to VCC; Drain through Rd (10k) to GND.
* ================================================================

* --- NTE457  (2N5457 — N-ch 25V/10mA) ---
RG_J1  0    G_J1  1MEG
RD_J1  VCC  D_J1  10k
RS_J1  S_J1  0    1k
J1     D_J1  G_J1  S_J1  NTE457

* --- NTE458  (J201 / 2N4117 — N-ch low-noise 50V/5mA) ---
RG_J2  0    G_J2  1MEG
RD_J2  VCC  D_J2  10k
RS_J2  S_J2  0    2.2k
J2     D_J2  G_J2  S_J2  NTE458

* --- NTE467  (2N5458 — N-ch switch 30V/10mA) ---
RG_J3  0    G_J3  1MEG
RD_J3  VCC  D_J3  10k
RS_J3  S_J3  0    1k
J3     D_J3  G_J3  S_J3  NTE467

* --- VET469  (BF244-type — N-ch 35V/50mA) ---
RG_J4  0    G_J4  1MEG
RD_J4  VCC  D_J4  4.7k
RS_J4  S_J4  0    470
J4     D_J4  G_J4  S_J4  VET469

* --- NTE489  (2N5462 — P-ch 30V/50mA) ---
RG_J5  VCC  G_J5  1MEG
RD_J5  D_J5  0    10k
RS_J5  VCC  S_J5  1k
J5     D_J5  G_J5  S_J5  NTE489

* --- NTE460  (2N5460-type — P-ch 20V/10mA) ---
RG_J6  VCC  G_J6  1MEG
RD_J6  D_J6  0    10k
RS_J6  VCC  S_J6  1k
J6     D_J6  G_J6  S_J6  NTE460

* --- NTE326  (2N5460-type — P-ch 40V/10mA) ---
RG_J7  VCC  G_J7  1MEG
RD_J7  D_J7  0    10k
RS_J7  VCC  S_J7  1k
J7     D_J7  G_J7  S_J7  NTE326


* ================================================================
* SECTION 3 — OPERATIONAL AMPLIFIERS
*
* Singles (LM741N, NTE976): unity-gain followers, 5-pin subcircuit.
* Duals/Quads: package-level wrappers — both/all sections wired as
*   unity-gain followers sharing VCC/VEE.
* LMC6482 / LMC6492 use VCC5 (5V) / GND — NOT ±12V rails.
* ================================================================

* --- LM741N  (single BJT-input, 1 MHz GBW) ---
XU_LM741N   VIN_OP  VOUT_741  VCC  VEE  VOUT_741   LM741N

* --- LM358N  (dual BJT-input, ~700 kHz GBW) ---
XU_LM358N   VCC VEE
+           VIN_OP VOUT_358A VOUT_358A
+           VIN_OP VOUT_358B VOUT_358B  LM358N

* --- NTE987  (quad LM324-type, 1 MHz GBW) ---
XU_NTE987   VCC VEE
+           VIN_OP VOUT_987A VOUT_987A
+           VIN_OP VOUT_987B VOUT_987B
+           VIN_OP VOUT_987C VOUT_987C
+           VIN_OP VOUT_987D VOUT_987D  NTE987

* --- NTE976  (JFET-input TL071-type, 4 MHz GBW) ---
XU_NTE976   VIN_OP  VOUT_976  VCC  VEE  VOUT_976   NTE976

* --- LMC6482  (quad, *** NOT suitable for ±12V; at +5V/GND) ---
XU_LMC6482  VCC5 0
+           VIN_LV VOUT_6482A VOUT_6482A
+           VIN_LV VOUT_6482B VOUT_6482B
+           VIN_LV VOUT_6482C VOUT_6482C
+           VIN_LV VOUT_6482D VOUT_6482D  LMC6482

* --- LMC6492  (dual, *** NOT suitable for ±12V; at +5V/GND) ---
XU_LMC6492  VCC5 0
+           VIN_LV VOUT_6492A VOUT_6492A
+           VIN_LV VOUT_6492B VOUT_6492B  LMC6492


* ================================================================
* SECTION 4 — AUDIO AMPLIFIERS & PREAMPS
* ================================================================

* --- LM386  (single-supply, 9V; pin 4 = GND, output ≈ VCC/2) ---
XU_LM386    VIN_AUD  0  VCC9  0   VOUT_386   LM386
RLOAD_386   VOUT_386  0  8       $ 8 Ω speaker load

* --- NTE824  (NE5532-type dual low-noise, 10 MHz GBW) ---
XU_NTE824   VCC VEE
+           VIN_AUD VOUT_824A VOUT_824A
+           VIN_AUD VOUT_824B VOUT_824B  NTE824

* --- NTE983  (TL072-type dual JFET-input, 3 MHz GBW) ---
XU_NTE983   VCC VEE
+           VIN_AUD VOUT_983A VOUT_983A
+           VIN_AUD VOUT_983B VOUT_983B  NTE983


* ================================================================
* ANALYSIS — DC operating point only
* ================================================================
.OP

* Print op-amp/amp output voltages (should track input signals)
.PRINT DC V(VOUT_741)    V(VOUT_358A)  V(VOUT_987A)  V(VOUT_976)
.PRINT DC V(VOUT_6482A)  V(VOUT_6492A) V(VOUT_386)   V(VOUT_824A) V(VOUT_983A)

* Print BJT collector voltages (Section 1 — NTE/VET parts)
.PRINT DC V(C_Q1) V(C_Q2) V(C_Q3) V(C_Q4) V(C_Q5) V(C_Q6) V(C_Q7) V(C_Q8)

* Print BJT collector voltages (Section 1b — VUPN1670 kit parts)
.PRINT DC V(C_Q9) V(C_Q10) V(C_Q11) V(C_Q12) V(C_Q13) V(C_Q14)
.PRINT DC V(C_Q15) V(C_Q16) V(C_Q17) V(C_Q18)

* Print JFET drain voltages
.PRINT DC V(D_J1) V(D_J2) V(D_J3) V(D_J4) V(D_J5) V(D_J6) V(D_J7)

.END
