* ================================================================
* VETCO EURORACK LIBRARY — COMPILE / PARSE TEST
* File: vetco_eurorack_test.cir
* Compatible with: ngspice (batch mode)
*
* Purpose: Instantiate every model in vetco_eurorack.lib and run
*          a DC operating point (.op) to verify the library parses
*          and all instances converge.
*
* Run:  ngspice -b vetco_eurorack_test.cir
*       (ngspice.exe lives in C:\Program Files\KiCad\10.0\bin\)
* ================================================================

.TITLE Vetco Eurorack Library Compile Test

.LIB "vetco_eurorack.lib"

* ================================================================
* SUPPLY RAILS
* ================================================================
VVCC  vcc  0   DC  12V     $ Eurorack +12V
VVEE  vee  0   DC -12V     $ Eurorack -12V
VVCC9 vcc9 0   DC   9V     $ LM386 single supply
VVCC5 vcc5 0   DC   5V     $ LMC648x low-voltage supply

* Test signal sources
VVIN_OP   vin_op   0  DC  0.5V    $ op-amp unity-gain input  (±12V parts)
VVIN_LV   vin_lv   0  DC  0.1V    $ low-voltage op-amp input (LMC parts)
VVIN_AUD  vin_aud  0  DC  0.05V   $ audio amp input


* ================================================================
* SECTION 1 — BIPOLAR JUNCTION TRANSISTORS
*
* Simple fixed bias:
*   NPN — Rb (100k) from VCC to Base; Rc (4.7k) from VCC to Collector;
*          Emitter to GND.  Some parts will saturate; .op still converges.
*   PNP — Rb (100k) from GND to Base; Rc (4.7k) from GND to Collector;
*          Emitter to VCC.
* ================================================================

* --- VET123AP  (2N3904 — NPN 40V/200mA) ---
RB_Q1A  vcc  b_q1  100k
RC_Q1   vcc  c_q1  4.7k
Q1      c_q1  b_q1  0  VET123AP

* --- NTE159    (2N3906 — PNP 40V/200mA) ---
RB_Q2A  0    b_q2  100k
RC_Q2   c_q2  0   4.7k
Q2      c_q2  b_q2  vcc  NTE159

* --- NTE123A   (2N2222A — NPN 40V/800mA) ---
RB_Q3A  vcc  b_q3  100k
RC_Q3   vcc  c_q3  4.7k
Q3      c_q3  b_q3  0   NTE123A

* --- NTE159M   (2N2907A — PNP 60V/600mA) ---
RB_Q4A  0    b_q4  100k
RC_Q4   c_q4  0   4.7k
Q4      c_q4  b_q4  vcc  NTE159M

* --- NTE47     (MPSA18 — NPN low-noise 30V/50mA) ---
RB_Q5A  vcc  b_q5  100k
RC_Q5   vcc  c_q5  22k
Q5      c_q5  b_q5  0   NTE47

* --- NTE196    (TIP31C — NPN power 70V/7A) ---
RB_Q6A  vcc  b_q6  10k
RC_Q6   vcc  c_q6  100
Q6      c_q6  b_q6  0   NTE196

* --- NTE197    (TIP32C — PNP power 70V/7A) ---
RB_Q7A  0    b_q7  10k
RC_Q7   c_q7  0   100
Q7      c_q7  b_q7  vcc  NTE197

* --- NTE288    (MPSA93 — PNP HV 80V/500mA) ---
RB_Q8A  0    b_q8  100k
RC_Q8   c_q8  0   4.7k
Q8      c_q8  b_q8  vcc  NTE288


* ================================================================
* SECTION 1b — VUPN1670 ASSORTMENT KIT (BJTs)
*
* Same bias scheme as Section 1.
* NPN: Rb (100k) VCC→Base; Rc (4.7k) VCC→Collector; E→GND.
* PNP: Rb (100k) GND→Base; Rc (4.7k) GND→Collector; E→VCC.
* Power parts (S8050/S8550): lower Rb (10k) and Rc (100Ω).
* ================================================================

* --- 2N2222  (PN2222A — NPN switching 60V/800mA) ---
RB_Q9A  vcc  b_q9  100k
RC_Q9   vcc  c_q9  4.7k
Q9      c_q9  b_q9  0   2N2222

* --- 2N2907  (2N2907A — PNP switching 60V/600mA) ---
RB_Q10A 0    b_q10  100k
RC_Q10  c_q10  0   4.7k
Q10     c_q10  b_q10  vcc  2N2907

* --- 2N3904  (NPN general purpose 40V/200mA) ---
RB_Q11A vcc  b_q11  100k
RC_Q11  vcc  c_q11  4.7k
Q11     c_q11  b_q11  0   2N3904

* --- 2N3906  (PNP general purpose 40V/200mA) ---
RB_Q12A 0    b_q12  100k
RC_Q12  c_q12  0   4.7k
Q12     c_q12  b_q12  vcc  2N3906

* --- A1015   (2SA1015 — PNP low-noise 50V/150mA) ---
RB_Q13A 0    b_q13  100k
RC_Q13  c_q13  0   4.7k
Q13     c_q13  b_q13  vcc  A1015

* --- BC327   (PNP high-gain 50V/800mA) ---
RB_Q14A 0    b_q14  100k
RC_Q14  c_q14  0   4.7k
Q14     c_q14  b_q14  vcc  BC327

* --- BC337   (NPN high-gain 50V/800mA) ---
RB_Q15A vcc  b_q15  100k
RC_Q15  vcc  c_q15  4.7k
Q15     c_q15  b_q15  0   BC337

* --- C1815   (2SC1815 — NPN low-noise 50V/150mA) ---
RB_Q16A vcc  b_q16  100k
RC_Q16  vcc  c_q16  4.7k
Q16     c_q16  b_q16  0   C1815

* --- S8050   (NPN power switching 40V/1.5A) ---
RB_Q17A vcc  b_q17  10k
RC_Q17  vcc  c_q17  100
Q17     c_q17  b_q17  0   S8050

* --- S8550   (PNP power switching 40V/1.5A) ---
RB_Q18A 0    b_q18  10k
RC_Q18  c_q18  0   100
Q18     c_q18  b_q18  vcc  S8550


* ================================================================
* SECTION 2 — JUNCTION FIELD-EFFECT TRANSISTORS
*
* N-ch: Gate biased via 1MEG to GND; Source self-bias via Rs (1k)
*       to GND; Drain through Rd (10k) to VCC.
* P-ch: Gate biased via 1MEG to VCC; Source self-bias via Rs (1k)
*       to VCC; Drain through Rd (10k) to GND.
* ================================================================

* --- NTE457  (2N5457 — N-ch 25V/10mA) ---
RG_J1  0    g_j1  1MEG
RD_J1  vcc  d_j1  10k
RS_J1  s_j1  0    1k
J1     d_j1  g_j1  s_j1  NTE457

* --- NTE458  (J201 / 2N4117 — N-ch low-noise 50V/5mA) ---
RG_J2  0    g_j2  1MEG
RD_J2  vcc  d_j2  10k
RS_J2  s_j2  0    2.2k
J2     d_j2  g_j2  s_j2  NTE458

* --- NTE467  (2N5458 — N-ch switch 30V/10mA) ---
RG_J3  0    g_j3  1MEG
RD_J3  vcc  d_j3  10k
RS_J3  s_j3  0    1k
J3     d_j3  g_j3  s_j3  NTE467

* --- VET469  (BF244-type — N-ch 35V/50mA) ---
RG_J4  0    g_j4  1MEG
RD_J4  vcc  d_j4  4.7k
RS_J4  s_j4  0    470
J4     d_j4  g_j4  s_j4  VET469

* --- NTE489  (2N5462 — P-ch 30V/50mA) ---
RG_J5  vcc  g_j5  1MEG
RD_J5  d_j5  0    10k
RS_J5  vcc  s_j5  1k
J5     d_j5  g_j5  s_j5  NTE489

* --- NTE460  (2N5460-type — P-ch 20V/10mA) ---
RG_J6  vcc  g_j6  1MEG
RD_J6  d_j6  0    10k
RS_J6  vcc  s_j6  1k
J6     d_j6  g_j6  s_j6  NTE460

* --- NTE326  (2N5460-type — P-ch 40V/10mA) ---
RG_J7  vcc  g_j7  1MEG
RD_J7  d_j7  0    10k
RS_J7  vcc  s_j7  1k
J7     d_j7  g_j7  s_j7  NTE326


* ================================================================
* SECTION 3 — OPERATIONAL AMPLIFIERS
*
* Singles (LM741N, NTE976): unity-gain followers, 5-pin subcircuit.
* Duals/Quads: package-level wrappers — both/all sections wired as
*   unity-gain followers sharing VCC/VEE.
* LMC6482 / LMC6492 use VCC5 (5V) / GND — NOT ±12V rails.
* ================================================================

* --- LM741N  (single BJT-input, 1 MHz GBW) ---
XU_LM741N   vin_op  vout_741  vcc  vee  vout_741   LM741N

* --- LM358N  (dual BJT-input, ~700 kHz GBW) ---
XU_LM358N   vcc vee
+           vin_op vout_358a vout_358a
+           vin_op vout_358b vout_358b  LM358N

* --- NTE987  (quad LM324-type, 1 MHz GBW) ---
XU_NTE987   vcc vee
+           vin_op vout_987a vout_987a
+           vin_op vout_987b vout_987b
+           vin_op vout_987c vout_987c
+           vin_op vout_987d vout_987d  NTE987

* --- NTE976  (JFET-input TL071-type, 4 MHz GBW) ---
XU_NTE976   vin_op  vout_976  vcc  vee  vout_976   NTE976

* --- LMC6482  (quad, *** NOT suitable for ±12V; at +5V/GND) ---
XU_LMC6482  vcc5 0
+           vin_lv vout_6482a vout_6482a
+           vin_lv vout_6482b vout_6482b
+           vin_lv vout_6482c vout_6482c
+           vin_lv vout_6482d vout_6482d  LMC6482

* --- LMC6492  (dual, *** NOT suitable for ±12V; at +5V/GND) ---
XU_LMC6492  vcc5 0
+           vin_lv vout_6492a vout_6492a
+           vin_lv vout_6492b vout_6492b  LMC6492


* ================================================================
* SECTION 4 — AUDIO AMPLIFIERS & PREAMPS
* ================================================================

* --- LM386  (single-supply, 9V; pin 4 = GND, output ≈ VCC/2) ---
XU_LM386    vin_aud  0  vcc9  0   vout_386   LM386
RLOAD_386   vout_386  0  8       $ 8 Ω speaker load

* --- NE5532  (dual low-noise, 10 MHz GBW) ---
XU_NE5532   vcc vee
+           vin_aud vout_5532a vout_5532a
+           vin_aud vout_5532b vout_5532b  NE5532

* --- NTE824  (NE5532-type dual low-noise, 10 MHz GBW) ---
XU_NTE824   vcc vee
+           vin_aud vout_824a vout_824a
+           vin_aud vout_824b vout_824b  NTE824

* --- NTE983  (TL072-type dual JFET-input, 3 MHz GBW) ---
XU_NTE983   vcc vee
+           vin_aud vout_983a vout_983a
+           vin_aud vout_983b vout_983b  NTE983


* ================================================================
* ANALYSIS — DC operating point only
* ================================================================
.OP

* Print op-amp/amp output voltages (should track input signals)
.PRINT DC V(vout_741)    V(vout_358a)  V(vout_987a)  V(vout_976)
.PRINT DC V(vout_5532a)  V(vout_824a)  V(vout_983a)  V(vout_386)
.PRINT DC V(vout_6482a)  V(vout_6492a) V(vout_386)   V(vout_824a) V(vout_983a)

* Print BJT collector voltages (Section 1 — NTE/VET parts)
.PRINT DC V(c_q1) V(c_q2) V(c_q3) V(c_q4) V(c_q5) V(c_q6) V(c_q7) V(c_q8)

* Print BJT collector voltages (Section 1b — VUPN1670 kit parts)
.PRINT DC V(c_q9) V(c_q10) V(c_q11) V(c_q12) V(c_q13) V(c_q14)
.PRINT DC V(c_q15) V(c_q16) V(c_q17) V(c_q18)

* Print JFET drain voltages
.PRINT DC V(d_j1) V(d_j2) V(d_j3) V(d_j4) V(d_j5) V(d_j6) V(d_j7)

.END
